US04045482
To a solution of 0.44 g. of 4-hydroxyindene in 4 ml. of an aqueous 10% potassium hydroxide solution there was added 0.65 g. of 1-chloro-2-hydroxy-3-isopropylaminopropane. After stirring the resulting mixture at room temperature for 15 hours, the reaction mixture was extracted with ether, the ether extract was dried with anhydrous sodium carbonate and the ether was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography using acetone as eluent, and 0.23 g. of white crystals of 4-(3-isopropylamino-2-hydroxypropoxy)indene was obtained.

reactant | 4-hydroxyindene | OC1=C2C=CCC2=CC=C1 | C9H8O
reactant | potassium hydroxide | [OH-].[K+]
reactant | 1-chloro-2-hydroxy-3-isopropylaminopropane | ClCC(CNC(C)C)O | C6H14ClNO
product | 4-(3-isopropylamino-2-hydroxypropoxy)indene | C(C)(C)NCC(COC1=C2C=CCC2=CC=C1)O | C15H21NO2
